US07135466B2
Toluene (20 ml) and thionyl chloride (1 ml) were added to commercially available 2-(2-nitrophenyl)acetic acid (80 mg), and the mixture was heated at 100° C. for one hr. The solvent was removed by distillation, and 2-(2-nitrophenyl)ethanoyl isothiocyanate was prepared using the resultant 2-(2-nitrophenyl)ethanoyl chloride as a starting compound according to the description of the literature. 2-(2-Nitrophenyl)ethanoyl isothiocyanate thus obtained was dissolved in ethanol (1 ml) to prepare a solution. 4-[(6,7-Dimethoxy-4-quinolyl)oxy]aniline (50 mg), toluene (5 ml), and ethanol (1 ml) were added to the solution, and the mixture was stirred at room temperature for 16 hr. The reaction solution was concentrated, and the residue was purified by chromatography on silica gel using chloroform/methanol for development to give the title compound (7 mg, yield 8%).

reactant | thionyl chloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(2-nitrophenyl)acetic acid | 80 mg | [N+](=O)([O-])C1=C(C=CC=C1)CC(=O)O | C8H7NO4
reactant | 2-(2-nitrophenyl)ethanoyl chloride | [N+](=O)([O-])C1=C(C=CC=C1)CC(=O)Cl | C8H6ClNO3
solvent | Toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-Nitrophenyl)ethanoyl isothiocyanate | [N+](=O)([O-])C1=C(C=CC=C1)CC(=O)N=C=S | C9H6N2O3S
